US07153855B2
This reaction was performed in a dark environment. To a cold (0–5° C.) solution of 2-(3-aminophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine (46 mg, 0.10 mmol) in acetic acid (3 mL) was added sodium nitrite (0.31 mL of a 25 mg/mL aqueous stock solution, 7.7 mg, 0.11 mmol). The mixture turned dark and was stirred for 20 minutes at 0° C. Sodium azide was then added and the mixture was stirred for 20 minutes, allowed to warm to room temperature and stirred for an additional 10 minutes. Ether was added and the mixture was neutralized with sodium bicarbonate. Aqueous workup was followed by drying over sodium sulfate. Filtration and concentration followed by flash chromatography (4:1 to 2:1 hexanes-ethyl acetate) provided 2-(3-azidophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine (25 mg, 52%) as a yellow solid. 1H NMR (CDCl3): δ 8.05 (d, 1 H), 7.75 (d, 1 H), 7.45–7.42 (m, 3 H), 7.36 (t, 1 H), 7.13 (m, 1 H), 6.33 (d, 1 H), 6.10–6.03 (m, 2 H), 5.10 (d, 1 H), 4.36 (m, 1 H), 4.05 (m, 1 H), 2.20–1.54 (m, 16 H); MS m/z 480 (M+1); IR 2109 cm−1.

reactant | 2-(3-aminophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine | 0.10 mmol, 46 mg | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H31N7
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | Sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | Ether | CCOCC | C4H10O
product | 2-(3-azidophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine | 25 mg, 52% | N(=[N+]=[N-])C=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H29N9
